US04963553
4-(Chloroacetyl)-7-(4-chlorophenyl)-4.5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile
A 10 g portion of 7-(4-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile and 9 g of [1,8-bis(dimethylamino)naphthalene, N,N,N',N'-tetramethyl-1,8-naphthalenediamine] in 300 ml of dry tetrahydrofuran under nitrogen was mixed and 6 ml of chloroacetyl chloride in 70 ml of dry tetrahydrofuran was added over 15 minutes with stirring. The mixture was stirred at reflux for 5.5 hours, then at room temperature overnight and then filtered. The filtrate was concentrated to an oil. This oil was triturated with ether, the solid collected and dried, giving 10 g of the desired intermediate, mp 138°-140° C.

reactant | 7-(4-chlorophenyl)-4,5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | ClC1=CC=C(C=C1)C1=C(CNC=2N1N=CC2C#N)C | C14H11ClN4
reactant | 1,8-bis(dimethylamino)naphthalene | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | chloroacetyl chloride | 6 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-(Chloroacetyl)-7-(4-chlorophenyl)-4.5-dihydro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 10 g | ClCC(=O)N1C=2N(C(=C(C1)C)C1=CC=C(C=C1)Cl)N=CC2C#N | C16H12Cl2N4O
